US08404677B2
Ethyl 4-(4-methoxyphenyl)-6-methyl-2-(methylthio)pyrimidine-5-carboxylate
A 20 mL reaction vessel was charged with ethyl 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carboxylate (1.00 g, 4.06 mmol), 4-(tert-butoxycarbonylamino)phenylboronic acid (1.00 g, 4.22 mmol), and tetrakis(triphenyl)phosphine)palladium(0) (0.17 g, 0.15 mmol) in 10 mL dioxane. The reaction mixture was purged with N2 for 25 minutes with stirring. To the mixture was added potassium carbonate (1.17 g, 8.44 mmol) in 4 mL H2O. The biphasic mixture was purged with N2 for 10 minutes. The mixture was stirred at 90° C. for 14 hours. The mixture was diluted with EtOAc, and washed with H2O. The separated organic layer was dried over Na2SO4. The solvents were removed by a rotavapor yielding brown oily residue. The residue was purified by silica gel chromatography using a gradient 0-5% MeOH in dichloromethane providing white solid (1.12 g, 68%). MS m/z: 319 (M+1)+.

reactant | ethyl 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carboxylate | 4.06 mmol, 1.00 g | ClC1=NC(=NC(=C1C(=O)OCC)C)SC | C9H11ClN2O2S
reactant | 4-(tert-butoxycarbonylamino)phenylboronic acid | 4.22 mmol, 1.00 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)B(O)O | C11H16BNO4
reactant | potassium carbonate | 8.44 mmol, 1.17 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 4 mL | O | H2O
catalyst | palladium(0) | 0.15 mmol, 0.17 g | [Pd] | Pd
product | Ethyl 4-(4-methoxyphenyl)-6-methyl-2-(methylthio)pyrimidine-5-carboxylate | COC1=CC=C(C=C1)C1=NC(=NC(=C1C(=O)OCC)C)SC | C16H18N2O3S
